US05166136
(2S)-2-propenylproline hydrochloride
3-(1,1-Dimethylethyl)-5,6,7,7a-tetrahydro-7a-(2-propenyl)-(3S-cis)-1H,3H-pyrrolo[1,2-c]oxazol-1-one (7.98 g) was dissolved in a mixture of methanol (170 ml) and water (40 ml). Silica gel (20 g) was added and the reaction was stirred for 24 h at ambient temperature. The silica was removed by filtration, washed with methanol (100 ml) and water (50 ml) and the filtrate and washes were combined, then evaporated to leave an oil which was taken up in 1M HCl (100 ml). The solution was washed with CH2Cl2 (4×50 ml) then evaporated to dryness. Residual water was removed by azeotropic evaporation with methanol to leave a brown solid (5 g) which was dried in vacuo over P2O5, leached with boiling chloroform and crystallised from methanol to give the title compound (3.68 g) m.p. 180°-183° , [α]D +50° (MeOH, C=1%).

reactant | 3-(1,1-Dimethylethyl)-5,6,7,7a-tetrahydro-7a-(2-propenyl)-(3S-cis)-1H,3H-pyrrolo[1,2-c]oxazol-1-one | 7.98 g | CC(C)(C)[C@@H]1OC([C@@]2(N1CCC2)CC=C)=O | C13H21NO2
reactant | HCl | 1M, 100 ml | Cl | ClH
solvent | methanol | 170 ml | CO | CH4O
solvent | water | 40 ml | O | H2O
product | (2S)-2-propenylproline hydrochloride | 5 g | Cl.C(=CC)[C@]1(NCCC1)C(=O)O | InChI=1S/C8H13NO2.ClH/c1-2-4-8(7(10)11)5-3-6-9-8;/h2,4,9H,3,5-6H2,1H3,(H,10,11);1H/t8-;/m1./s1
